### PR TITLE
[Merged by Bors] - feat(RingTheory/TensorProduct): heterogenize

### PR DESCRIPTION
**Pull request by eric-wieser**
This:
* Improves the module docstring, which was both out of date and not very informative
* Addresses a `TODO` to generalize `includeLeft` to commuting actions. As a result a few downstream results are changed to be about `includeLeftRingHom` or `a ⊗ₜ 1`, as carrying around the extra useless ring just makes the lemmas harder to use. Nothing seems to suffer from this change.
* Introduces `TensorProduct.AlgebraTensorModule.rid`
* Generalizes the following to work for towers of rings:
  * `Algebra.TensorProduct.algHomOfLinearMapTensorProduct`
  * `Algebra.TensorProduct.map`
  * `Algebra.TensorProduct.congr`
  * `Algebra.TensorProduct.endTensorEndAlgHom`
  * `Algebra.TensorProduct.ext` (and renames it to `Algebra.TensorProduct.ext'`)
  * `Algebra.TensorProduct.rid`
* Introduces a new `Algebra.TensorProduct.ext` which follows "partially-applied ext lemmas", and uses it to golf a proof in `RingTheory/Etale.lean`
 
I need many of these results for building `AlgEquiv`s relating to the base change of clifford algebras.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/TensorProduct.lean [hunk 1]
```diff
@@ -590,19 +611,30 @@ theorem lid_tmul (r : R) (a : A) : (TensorProduct.lid R A : R ⊗ A → A) (r 
...
+    (fun a₁ a₂ r₁ r₂ => by
+      show a₁ * a₂ * algebraMap R A (r₁ * r₂) = a₁ * algebraMap R A r₁ * (a₂ * algebraMap R A r₂)
+      simp_rw [←Algebra.commutes, ←Algebra.smul_def, smul_mul_smul])
+    (fun s => show algebraMap S A s * algebraMap R A 1 = algebraMap S A s by simp)
 #align algebra.tensor_product.rid Algebra.TensorProduct.rid
 
 @[simp]
-theorem rid_tmul (r : R) (a : A) : (TensorProduct.rid R A : A ⊗ R → A) (a ⊗ₜ r) = r • a := by
-  simp [TensorProduct.rid]
+theorem rid_tmul (r : R) (a : A) : TensorProduct.rid R S A (a ⊗ₜ r) = a * algebraMap _ _ r := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/TensorProduct.lean:637]: Is this change reasonable? Or was the old defeq better?

File: Mathlib/RingTheory/Etale.lean [hunk 2]
```diff
@@ -440,19 +440,9 @@ instance FormallyUnramified.base_change [FormallyUnramified R A] :
...
-  change
-    ((f₁.restrictScalars R).comp TensorProduct.includeRight) a =
-      ((f₂.restrictScalars R).comp TensorProduct.includeRight) a
-  congr 1
-  refine' FormallyUnramified.ext I ⟨2, hI⟩ _
-  intro x
-  exact AlgHom.congr_fun e (1 ⊗ₜ x)
+  ext : 1
+  · exact Subsingleton.elim _ _
+  · exact FormallyUnramified.ext I ⟨2, hI⟩ fun x => AlgHom.congr_fun e (1 ⊗ₜ x)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Etale.lean:445]: Only after writing `Algebra.TensorProduct.ext` did I find out that there was a duplicate implementation hiding here!

File: Mathlib/RingTheory/TensorProduct.lean [hunk 3]
```diff
@@ -1022,3 +1065,4 @@ theorem smul_def (a : A) (b : B) (m : M) : a ⊗ₜ[R] b • m = a • b • m :
 #align tensor_product.algebra.smul_def TensorProduct.Algebra.smul_def
 
 end TensorProduct.Algebra
+#lint
```
Comment (jcommelin) [inline Mathlib/RingTheory/TensorProduct.lean:1068]:
```suggestion

```

**Review by jcommelin — APPROVED** [review]
bors d+

File: Mathlib/RingTheory/Etale.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/RingTheory/Etale.lean:445]: lgtm

File: Mathlib/RingTheory/TensorProduct.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/TensorProduct.lean:640]: I've pinged Kevin and Antoine on Zulip just to be safe; I'll probably merge tomorrow if they don't reply before then.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct.lean:640]: I have a slight preference for the old version, but I can't bet it is reasonable.
According to my own programming habit, keeping`r • a` (smul) as long as possible is safer, and one can always rewrite it to multiplication using `algebraMap_eq_smul`.

Comment (eric-wieser) [reply Mathlib/RingTheory/TensorProduct.lean:640]: @AntoineChambert-Loir, note this is `a * algebraMap _ _ r` not `algebraMap _ _ r * a`; though admittedly that's only one more rewrite away.

Comment (eric-wieser) [reply Mathlib/RingTheory/TensorProduct.lean]: I've changed it to `r • a`

**Comment by eric-wieser** [comment]
bors merge
